US06790848B2
To an ice-cooled solution of 0.4 g (1.32 mmole) 4-(1H-indol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester in 10 mL THF was added 0.83 mL (1.65 mmole) 2M n-butyl lithium in cyclohexane. The reaction mixture was stirred for 5 min and then cooled to −70° C. A solution of 0.26 g (1.44 mmole) N-bromosuccinimide in 6 mL THF was added and the mixture was stirred at 0° C. for 0.5 hr. The mixture was diluted with 10 mL water and extracted with 25 mL ether. The organic phase was washed with 5 mL water, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was subjected to column chromatography over silica gel eluting with hexane/chloroform/ethyl acetate (50:48:2) to afford) 4-(3-bromo-1H-indol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester as a foam, 0.46 g. Nmr (deuteriochloroform) ppm δ: 1.50 (s 9H), 3.08 (m, 4H), 3.71 (m, 4H), 6.72 (dd, 1H), 7.14 (m, 3H), 8.42 (brs, 1H).

reactant | 4-(1H-indol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.32 mmole, 0.4 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | n-butyl lithium | 1.65 mmole, 2M, 0.83 mL | C(CCC)[Li]
reactant | N-bromosuccinimide | 1.44 mmole, 0.26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 4-(3-bromo-1H-indol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=CNC2=CC=C1)Br | C17H22BrN3O2
